US06229020B1
Synthesis of ethyl 3-(4-chloro-2-nitrophenyl)-2-methyl-2-propenate
Into 200 ml of benzene, 10.0 g (53.8 mmol) of 4-chloro-2-nitrobenzaldehyde (manufactured by Aldrich Chemical Co., Inc.) and 18.1 g (50.0 mmol) of Wittig reagent (carbethoxyethylidene triphenylphosphorane, manufactured by Aldrich Chemical Co., Inc.) were dissolved; and the mixture was stirred at ordinary temperature for one night. After the completion of the reaction was verified by TLC, the reaction liquid was concentrated, whereby a crude product was obtained. This crude product was refined by a column chromatography (aminopropyl-modified silica gel (Fuji Silysia Chem. Co., NH-DM); developing solvent: hexane/ethyl acetate=1/1), whereby 13.1 g of the aimed compound were obtained as a crystal (yield: 97%).

reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
reactant | 4-chloro-2-nitrobenzaldehyde | 53.8 mmol, 10.0 g | ClC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | ethyl 3-(4-chloro-2-nitrophenyl)-2-methyl-2-propenate | 13.1 g | ClC1=CC(=C(C=C1)C=C(C(=O)OCC)C)[N+](=O)[O-] | C12H12ClNO4
